US08372307B2
Preparation of 4′-Pentyl-bicyclohexyl-4-carboxylic acid 6-(2-methyl-acryloyloxy)-hexyl ester 1
A solution of methacrylic acid (3.6 g, 41.8 mmol) in dimethylformamide (30 ml) is added dropwise to an ice cooled slurry of sodium hydride (60% suspension in paraffin oil) (1.5 g, 37.5 mmol) in dimethylformamide (50 ml). Once addition is complete, the mixture is allowed to warm to room temperature and is stirred for 1 h, the intermediate 4′-pentyl-bicyclohexyl-4-carboxylic acid 6-bromo-hexyl ester (15.0 g, 33.8 mmol) in dimethylformamide (100 ml) is added dropwise. The mixture is stirred at 50° C. over night. The mixture is cooled to room temperature, poured into icy water, and this is extracted three times with DCM. The DCM solution is washed with brine, water and then dried over sodium sulphate. The solution is evaporated to dryness and recrystallised from acetonitrile to afford a white waxy solid. Further purification is achieved by preparative HPLC using water/acetonitrile as eluant.

reactant | methacrylic acid | 41.8 mmol, 3.6 g | C(C(=C)C)(=O)O | C4H6O2
reactant | sodium hydride | 37.5 mmol, 1.5 g | [H-].[Na+]
reactant | 4′-pentyl-bicyclohexyl-4-carboxylic acid 6-bromo-hexyl ester | 33.8 mmol, 15.0 g | BrCCCCCCOC(=O)C1CCC(CC1)C1CCC(CC1)CCCCC | C24H43BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4′-Pentyl-bicyclohexyl-4-carboxylic acid 6-(2-methyl-acryloyloxy)-hexyl ester | CC(C(=O)OCCCCCCOC(=O)C1CCC(CC1)C1CCC(CC1)CCCCC)=C | C28H48O4
